US07776875B2
Preparation of Racemic (2′R,3S,4′R)-6-chloro-2′-(2-chloro-5-fluoro-phenyl)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′R,3S,4′R)-6-chloro-2′-(2-chloro-5-fluoro-phenyl)-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (143 mg, 0.24 mmol) and CDI (78 mg, 0.48 mmol) in DMF (5 mL) was stirred at room temperature for 30 min. Then to this solution was added a mixture of methanesulfonamide (475 mg, 5 mmol) and NaH (200 mg, 60%, 5 mmol) in DMF (5 mL), which had been stirred for 1 h at room temperature. After the resulting mixture was heated at 60° C. for 1 h, it was poured into water (5 mL) and the mixture was acidified by concentrated aqueous HCl, extracted with EtOAc twice. The combined extracts were dried over anhydrous Na2SO4, concentrated and the residue was purified by flash column to give the title compound as a white solid (100 mg).

reactant | racemic (2′R,3S,4′R)-6-chloro-2′-(2-chloro-5-fluoro-phenyl)-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.24 mmol, 143 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)Cl)=O | C28H22Cl3FN2O5
reactant | CDI | 0.48 mmol, 78 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 5 mmol, 475 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | Racemic (2′R,3S,4′R)-6-chloro-2′-(2-chloro-5-fluoro-phenyl)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C)(C)C)=O)C1=C(C=CC(=C1)F)Cl)=O | C29H25Cl3FN3O6S
